US03953496
In 200 ml of pyridine was dissolved 8.3 g of methyl 2,4-diaminobenzoate, and to the solution was added a solution of 4.4 ml of phosphorus trichloride in 30 ml of pyridine under cooling with ice, followed by stirring at 50° to 70°C for one hour. To the mixture was added 21 g of salicylic acid was added, followed by heating at 90°C for three hours. After the cooling of the mixture by allowing it to stand, undissolved substances were filtered off and the filtrate was subjected to concentrate under reduced pressure. The concentrate was added to cold diluted hydrochloric acid to precipitate crystals. The crystals were recovered by filtration, washed with water and recrystallized from an acetone-dioxane-water mixture to obtain 11.1 g of methyl 2,4-bis(salicylamido)-benzoate having a melting point between 259° - 260°C. It was confirmed that the product was identical to that obtained in Example 7.

reactant | methyl 2,4-diaminobenzoate | 8.3 g | NC1=C(C(=O)OC)C=CC(=C1)N | C8H10N2O2
reactant | phosphorus trichloride | 4.4 ml | P(Cl)(Cl)Cl | Cl3P
reactant | salicylic acid | 21 g | C(C=1C(O)=CC=CC1)(=O)O | C7H6O3
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | methyl 2,4-bis(salicylamido)-benzoate | 11.1 g | C(C=1C(O)=CC=CC1)(=O)NC1=C(C(=O)OC)C=CC(=C1)NC(C=1C(O)=CC=CC1)=O | C22H18N2O6
